US06350749B1
To a mixture of 5-(2-chlorophenyl)-1-[2-(4-methylphenylsulfonyl)hydrazino]cyclohexen-3-one (2.74 g), anhydrous potassium carbonate (1.26 g) and methanol (30 ml) was added at room temperature 1-bromo-3,3,3-trifluoropropan-2-one (1.74 g), and the mixture was stirred at the same temperature for 0.5 hours. To the mixture was added anhydrous potassium carbonate (1.26 g), and the mixture was refluxed for 1 hour. Under reduced pressure, the solvent was evaporated, and the residue was extracted with ethyl acetate. The organic layer was concentrated, and the residue was dissolved in acetic acid (20 ml). To the solution was added concentrated sulfuric acid (1 ml), and the mixture was refluxed for 20 minutes. To the reaction solution was added water (120 ml), and the mixture was concentrated under reduced pressure. The residue was extracted with ethyl acetate, and the organic layer was washed with sodium hydrogen carbonate solution and concentrated. The residue was purified with silica gel column chromatography to give 7-(2-chlorophenyl)-4-trifluoromethyl-5,6,7,8-tetrahydrocinnolin-5-one (1.02 g) as oil.

reactant | 5-(2-chlorophenyl)-1-[2-(4-methylphenylsulfonyl)hydrazino]cyclohexen-3-one | 2.74 g | ClC1=C(C=CC=C1)C1CC(C=C(C1)NNS(=O)(=O)C1=CC=C(C=C1)C)=O | C19H19ClN2O3S
reactant | potassium carbonate | 1.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3,3,3-trifluoropropan-2-one | 1.74 g | BrCC(C(F)(F)F)=O | C3H2BrF3O
reactant | potassium carbonate | 1.26 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 30 ml | CO | CH4O
product | 7-(2-chlorophenyl)-4-trifluoromethyl-5,6,7,8-tetrahydrocinnolin-5-one | 1.02 g | ClC1=C(C=CC=C1)C1CC(C=2C(=CN=NC2C1)C(F)(F)F)=O | C15H10ClF3N2O
